US04596816
To a mixture of 1-amino-1-phenyl-2-propanone hydrochloride (5.55 g), water (40 ml), ethyl acetate (75 ml) and potassium carbonate (4.55 g) was added dropwise hexanoyl chloride (4.42 g) under ice-cooling and stirring. The mixture was further stirred for an hour with ice-cooling. The ethyl acetate layer was separated, washed with water, diluted hydrochloric acid and water in that order, and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was recrystallized from isopropyl ether to give crystals of 1-hexanoylamino-1-phenyl-2-propanone, yield 5.80 g (78.2%), m.p. 77°-78° C.

reactant | 1-amino-1-phenyl-2-propanone hydrochloride | 5.55 g | Cl.NC(C(C)=O)C1=CC=CC=C1
reactant | water | 40 ml | O | H2O
reactant | potassium carbonate | 4.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexanoyl chloride | 4.42 g | C(CCCCC)(=O)Cl | C6H11ClO
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 1-hexanoylamino-1-phenyl-2-propanone | C(CCCCC)(=O)NC(C(C)=O)C1=CC=CC=C1 | C15H21NO2
